US06310208B1
3.12 g (78 mmol) of a sodium hydride dispersion (60% in oil) were added using a spatula and while stirring to a suspension of 8.85 g (35.5 mmol) of 4-(4-ethyl-3,5-dimethoxy-phenyl)-pyrrolidin-2-one in 250 ml of tetrahydrofuran and 2 ml of dimethylformamide and the mixture was stirred at room temperature for a further hour. Thereafter, the reaction mixture was treated with 3.52 ml (106.5 mmol) of methyl iodide and left to stir at room temperature for a further 16 hours. Subsequently, the reaction mixture was poured on to 400 ml of ice-water and extracted twice with 600 ml of ethyl acetate each time. The combined organic phases were washed twice with 300 ml of saturated sodium chloride solution each time, dried (MgSO4) and concentrated in a vacuum. The crude product was purified by column chromatography on silica gel (methylene chloride/methanol 39:1). 8.08 g (86%) of 4-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-pyrrolidin-2-one were obtained as a beige solid.

reactant | sodium hydride | 78 mmol, 3.12 g | [H-].[Na+]
reactant | 4-(4-ethyl-3,5-dimethoxy-phenyl)-pyrrolidin-2-one | 35.5 mmol, 8.85 g | C(C)C1=C(C=C(C=C1OC)C1CC(NC1)=O)OC | C14H19NO3
reactant | methyl iodide | 106.5 mmol, 3.52 ml | CI | CH3I
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(4-ethyl-3,5-dimethoxy-phenyl)-1-methyl-pyrrolidin-2-one | 8.08 g, 86% | C(C)C1=C(C=C(C=C1OC)C1CC(N(C1)C)=O)OC | C15H21NO3
